US07902195B2
A solution of tert-butyl {4-[7-(6-methoxypyridin-3-yl)-2-oxo-1-(2-propoxyethyl)-1,2-dihydropyrido[3,4-b]pyrazin-3-yl]piperazin1-yl}acetate (174 mg, 0.32 mmol) in dichloromethane (3 mL) was treated with trifluoroacetic acid (2 mL) and stirred at room temperature for 1 hour. The reaction mixture was concentrated under reduced pressure, triturated with diethyl ether, concentrated and recrystallized from ethyl acetate and hexane and filtered. The {4-[7-(6-methoxypyridin-3-yl)-2-oxo-1-(2-propoxyethyl)-1,2-dihydropyrido[3,4-b]pyrazin-3-yl]piperazin1-yl}acetic acid was obtained as a white solid. (81 mg, 52% yield).

reactant | tert-butyl {4-[7-(6-methoxypyridin-3-yl)-2-oxo-1-(2-propoxyethyl)-1,2-dihydropyrido[3,4-b]pyrazin-3-yl]piperazin1-yl}acetate | 0.32 mmol, 174 mg | COC1=CC=C(C=N1)C1=CC2=C(N=C(C(N2CCOCCC)=O)N2CCN(CC2)CC(=O)OC(C)(C)C)C=N1 | C28H38N6O5
reactant | trifluoroacetic acid | 2 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
product | {4-[7-(6-methoxypyridin-3-yl)-2-oxo-1-(2-propoxyethyl)-1,2-dihydropyrido[3,4-b]pyrazin-3-yl]piperazin1-yl}acetic acid | 52% yield | COC1=CC=C(C=N1)C1=CC2=C(N=C(C(N2CCOCCC)=O)N2CCN(CC2)CC(=O)O)C=N1 | C24H30N6O5
